US06426345B1
A mixture of 2-[3-(2-naphthyl)phenylamino]-3-aminopyridine and 3-(3-pyridyl)pyruvic acid in ethanol was stirred under reflux for 40 hours. After evaporation of the solvent, crude residue was chromatographed on silica gel to give 4-[3-(2-naphthyl)phenyl]-2-(3-pyridylmethyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine. Crystallization from ether and recrystallization with methanol afforded colorless crystals.

reactant | 2-[3-(2-naphthyl)phenylamino]-3-aminopyridine | C1=C(C=CC2=CC=CC=C12)C=1C=C(C=CC1)NC1=NC=CC=C1N | C21H17N3
reactant | 3-(3-pyridyl)pyruvic acid | N1=CC(=CC=C1)CC(C(=O)O)=O | C8H7NO3
solvent | ethanol | C(C)O | C2H6O
product | 4-[3-(2-naphthyl)phenyl]-2-(3-pyridylmethyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | C1=C(C=CC2=CC=CC=C12)C=1C=C(C=CC1)N1C2=C(N=C(C1=O)CC=1C=NC=CC1)C=CC=N2 | C29H20N4O
